US05399721
A 250 mL round bottom flask containing 5.6 g (30 mmol) of p-chlorophenyl-α-hydroxyacetic acid and 100 mL of concentrated HCl:MeOH (1:9) was warmed to reflux for 12 hours. The solution was concentrated under reduced pressure, diluted with 250 mL of Et2O and washed once with 30 mL of H2O, twice with 30 mL of NaHCO3 solution, once with 30 mL of H2O and once with 30 mL of brine. The organic layer was dried (Na2SO4) and concentrated leaving 5.0 g (83%) of methyl p-chlorophenyl-α-hydroxyacetate lit m.p. 55° C.) 1H-NMR (CDCl3) δ7.36-7.28 (m, 4H), 5.13 (s, 1 H), 3.72 (s, 3H), 3.67 (br s, 1 H (exchanges with D2O)).

reactant | p-chlorophenyl-α-hydroxyacetic acid | 30 mmol, 5.6 g | ClC1=CC=C(C=C1)C(C(=O)O)O | C8H7ClO3
reactant | HCl MeOH | 100 mL | Cl.CO
product | methyl p-chlorophenyl-α-hydroxyacetate | 5.0 g, 83% | ClC1=CC=C(C=C1)C(C(=O)OC)O | C9H9ClO3
